US05241076
7-Methyl-2,7-diazabicyclo[3.3.0]octane
10.3 g (47.6 mmol) of 2-benzyl-7-methyl-2,7 -diazabicyclo[3.3.0]octane in 200 ml of ethanol are hydrogenated at 100° C. and 100 bar on 2.5 g of palladium-active carbon (10% Pd). The catalyst is filtered off with suction, the filtrate is concentrated and the residue is distilled.

reactant | 2-benzyl-7-methyl-2,7 -diazabicyclo[3.3.0]octane | 47.6 mmol, 10.3 g | C(C1=CC=CC=C1)N1C2CN(CC2CC1)C | C14H20N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium | 2.5 g | [Pd] | Pd
product | 7-Methyl-2,7-diazabicyclo[3.3.0]octane | CN1CC2CCNC2C1 | C7H14N2
